US08278337B2
To a solution of 4-(methylsulfonyl)phenylhydrazine (5.0 g, 26.8 mmol, 1.00 equiv) and 1,1,3,3-tetramethoxypropane (4.4 mL, 26.8, 1.0 equiv) in ethanol (37 mL) at rt was added concentrated HCl (2.8 mL). The resulting solution was heated at reflux for 1 hr, cooled to 0° C. and filtered to give 1-(4-methanesulfonyl-phenyl)-1H-pyrazole as a yellow solid (4.73 g, 79%). LCMS: (MH)+=223.1 (1.19 min).

reactant | 4-(methylsulfonyl)phenylhydrazine | 26.8 mmol, 5.0 g, 1.00 equiv | CS(=O)(=O)C1=CC=C(C=C1)NN | C7H10N2O2S
reactant | 1,1,3,3-tetramethoxypropane | 4.4 mL, 1.0 equiv | COC(CC(OC)OC)OC | C7H16O4
reactant | HCl | 2.8 mL | Cl | ClH
solvent | ethanol | 37 mL | C(C)O | C2H6O
product | 1-(4-methanesulfonyl-phenyl)-1H-pyrazole | 4.73 g, 79% | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1 | C10H10N2O2S
